US07091232B2
2-Bromo-3-methyl-cyclopent-2-enone (Intermediate TEN1) (commercially available from Aldrich) (2.04 g, 11.4 mmol) and K2CO3 (3.16 g in 11 mL H2O) in toluene (45 mL) was treated with a solution 4-cyanophenylboronic acid (commercially available from Aldrich) (2.2 g, 15 mmol) in EtOH (27 mL). Tetrakis(triphenylphosphine)palladium(0) Pd(PPh3)4 (0.4 g), bis(dibenzylideneacetone)palladium(0), Pd2(dba)3 (0.055 g, ˜5 mol %) and triphenylphosphine (0.4 g) were added and the mixture was purged with N2 for 15 m. The mixture was heated to 80° C. for 15 h. The mixture was diluted with water and EtOAc:hexane. After extracting with EtOAc:hexane, the combined organic layers were dried over MgSO4, filtered and evaporated to dryness. The crude oil was purified by column chromatography on silica gel with CH2Cl2 to give 4-(2-methyl-5-oxo-cyclopent-1-enyl)-benzonitrile (Intermediate TEN2) 1.74 g.

reactant | 2-Bromo-3-methyl-cyclopent-2-enone | BrC=1C(CCC1C)=O | C6H7BrO
reactant | K2CO3 | 11 mL, 3.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | triphenylphosphine | 0.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 27 mL | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) Pd(PPh3)4 | 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(dibenzylideneacetone)palladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | Pd2(dba)3 | 0.055 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-methyl-5-oxo-cyclopent-1-enyl)-benzonitrile | 1.74 g | CC1=C(C(CC1)=O)C1=CC=C(C#N)C=C1 | C13H11NO
